US09062048B2
Step A: 3-(1,4-dioxaspiro[4.5]decan-8-yl)pentan-3-ol
To a solution of ethyl 1,4-dioxaspiro[4.5]decane-8-carboxylate (0.754 g, 3.52 mmol, prepared as described in Pearson, et al. in J. Org. Chem. 1997, 62(16), 5284-5292) in THF (20 mL) cooled to −78° C. under argon was added a ethylmagnesium chloride (9 mL, 18 mmol, 2 M in THF) dropwise. After the complete addition, the reaction mixture was allowed to reach room temperature overnight. It was then re-cooled to −78° C. and quenched with saturated NaHCO3 solution and warmed to room temperature. After extraction with ether, the organic layer was concentrated in vacuo and the residue purified by flash chromatography (silica gel, 0-100% ether/hexanes) to afford the product.

reactant | ethyl 1,4-dioxaspiro[4.5]decane-8-carboxylate | 3.52 mmol, 0.754 g | O1CCOC12CCC(CC2)C(=O)OCC | C11H18O4
reactant | ethylmagnesium chloride | 18 mmol, 2 M, 9 mL | C(C)[Mg]Cl
reactant | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-(1,4-dioxaspiro[4.5]decan-8-yl)pentan-3-ol | O1CCOC12CCC(CC2)C(CC)(CC)O | C13H24O3
